US07232821B2
6-{2-[5-Fluoro-2-(benzyloxy)phenyl]cyclopent-1-enyl}-pyridine-2-carboxylic acid benzyl ester
Prepared by general procedure 5 but using 6-{2-[5-fluoro-2-(hydroxy)phenyl]cyclopent-1-enyl}pyridine-2-carboxylic acid instead of 6-{2-[5-chloro-2-(hydroxy)phenyl]cyclopent-1-enyl}pyridine-2-carboxylic acid, benzyl bromide instead of 4-chlorobenzyl bromide and with acetone as solvent instead of 2-butanone.

reactant | 6-{2-[5-fluoro-2-(hydroxy)phenyl]cyclopent-1-enyl}pyridine-2-carboxylic acid | FC=1C=CC(=C(C1)C1=C(CCC1)C1=CC=CC(=N1)C(=O)O)O | C17H14FNO3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-butanone | CC(CC)=O | C4H8O
reactant | acetone | CC(=O)C | C3H6O
product | 6-{2-[5-Fluoro-2-(benzyloxy)phenyl]cyclopent-1-enyl}-pyridine-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1=NC(=CC=C1)C1=C(CCC1)C1=C(C=CC(=C1)F)OCC1=CC=CC=C1 | C31H26FNO3
